Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Pedestrian struck by motor vehicle 
 
Major Surgical or Invasive Procedure:
___: Repair of head laceration with sutures

 
History of Present Illness:
___ male with past medical history of GERD who was 
struck by a motor vehicle. He was a pedestrian struck by an SUV 
going approximately 40 to 50 mph. No LOC. Was thrown 
approximately 5 feet. presented with a  large scalp laceration. 
Not anticoagulation. Imaging is reported to show possible
mesenteric hematoma. ACS planning to admit and observe 
overnight.
PRS was called to eval the scalp lac. Tetanus injection given.

 
Past Medical History:
PMH: on antibiotics right now for ?prostatitis, otherwise 
reports no PMH 

PSH: hernia repair, sinus surgery 
 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Admission Physical exam:
VSS
GENERAL: NAD
SKIN: Warm and well perfused. 
HEAD: Right-sided posterior scalp laceration of about 15 cm with
2 cm gap at the widest part posteriorly. ___ exposed
throughout. A 5 mm ___ violation with skull exposed at the
posterior part.. Facial bones without deformities or tenderness.
EYES: PERRL. No scleral icterus or conjunctival injection.
Extraocular muscles intact without nystagmus or diplopia. No
proptosis or enophthalmos.
CV: RRR.
Pulm: CTAB
ABDOMEN: soft. 
Ext: No gross deformities
NEURO: A&O x3. GCS 15. 

Discharge Physical Exam:
VS: T: 98.6 PO BP: 139/82 L Lying HR: 73 RR: 18 O2: 94% Ra 
GEN: A+Ox3, NAD
HEENT: right parietal scalp laceration, repaired with sutures.  
Well-approximated, no s/s infection.
CV: RRR, Grade 2 systolic murmur
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation 
EXT: wwp, no edema b/l.  Left lateral thigh tender to palpation, 
no skin lesion.   
 
Pertinent Results:
IMAGING:

___: CXR:
1. No definite acute intrathoracic process.  Evidence of a 
moderate to large hiatal hernia. 
2. No acute fracture or dislocation identified in the pelvis.  
Pelvic 
degenerative changes. 

___: CT Head:
1. Right frontoparietal scalp hematoma with laceration.  No 
underlying acute fracture. 
2. No acute intracranial hemorrhage identified. 

___: CT Torso:
1. No acute fracture or solid organ injury identified in the 
chest, abdomen, or pelvis. 
2. Indeterminate nonspecific mesenteric haziness in the upper 
mesenteric fat to the left and right of midline, of 
indeterminate age, acute mesenteric injury/hematoma is not 
excluded, can have a similar appearance and should be 
considered. Alternatively, findings could represent an ongoing 
inflammatory process. No active extravasation seen. Mild left 
periaortic stranding may also be chronic. 
3. Bilateral common iliac artery aneurysms with associated 
atherosclerotic 
changes. 
4. Multiple bilateral pulmonary nodules measuring up to 6 mm for 
which 
dedicated follow-up CT chest is recommended on a nonemergent 
basis. 
5. Cholelithiasis without findings of cholecystitis. Large 
hiatal hernia. 
  
RECOMMENDATION(S): For incidentally detected multiple solid 
pulmonary nodules measuring 6 to 8mm, a CT follow-up in 3 to 6 
months is recommended in a low-risk patient, with an optional CT 
follow-up in 18 to 24 months. In a high-risk patient, both a CT 
follow-up in 3 to 6 months and in 18 to 24 months is 
recommended. 

___: CT C-spine:
1. No acute fracture or traumatic malalignment. 
2. Multilevel degenerative changes throughout the cervical spine 
most notable for moderate canal narrowing at C5-C6 and C6-C7 as 
well as moderate right neural foraminal narrowing at C5-C6. 

___: Left Hip x-ray:
No evidence of fracture or dislocation. 

LABS:

___ 07:48PM   LACTATE-2.1*
___ 07:48PM   WBC-16.5* RBC-4.40* HGB-13.0* HCT-40.1 MCV-91 
MCH-29.5 MCHC-32.4 RDW-13.9 RDWSD-46.6*
___ 07:48PM   NEUTS-82.9* LYMPHS-5.7* MONOS-10.8 EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-13.69* AbsLymp-0.94* AbsMono-1.78* 
AbsEos-0.00* AbsBaso-0.04
___ 07:48PM   PLT COUNT-212
___ 04:33PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:33PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:33PM URINE  RBC-60* WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 03:24PM   LACTATE-3.2*
___ 03:19PM   GLUCOSE-123* UREA N-29* CREAT-1.1 SODIUM-143 
POTASSIUM-5.4 CHLORIDE-109* TOTAL CO2-19* ANION GAP-15
___ 03:19PM   ALT(SGPT)-31 AST(SGOT)-31 ALK PHOS-59 TOT 
BILI-0.2
___ 03:19PM   LIPASE-54
___ 03:19PM   ALBUMIN-3.9 CALCIUM-9.2 PHOSPHATE-2.8 
MAGNESIUM-2.2
___ 03:19PM   WBC-7.8 RBC-4.72 HGB-13.8 HCT-43.4 MCV-92 
MCH-29.2 MCHC-31.8* RDW-13.8 RDWSD-46.9*
___ 03:19PM   NEUTS-53.3 ___ MONOS-11.4 EOS-1.0 
BASOS-0.8 IM ___ AbsNeut-4.13 AbsLymp-2.52 AbsMono-0.88* 
AbsEos-0.08 AbsBaso-0.06
___ 03:19PM   PLT COUNT-___ male with past medical history of GERD who was 
struck by a motor vehicle while walking across the street.  He 
sustained a large right parietal scalp laceration and there was 
mesenteric "haziness" seen on CT torso, concerning for hematoma. 
 Plastic Surgery evaluated the head laceration and repaired the 
laceration with sutures. Bacitracin was applied BID to the 
wound. The patient was admitted to the Acute Care Surgery 
service for monitoring of abdominal exam.

The patient was initially kept NPO and lactate and H&H were 
trended. Lactate increased to 6.1, but this was though to be an 
error and was rechecked and downtrended appropriately to 1.2 
without intervention.  H&H remained stable.  The patient's 
abdominal exam remained benign and diet was advanced to regular 
which he tolerated without pain.  

A tertiary exam was performed and the patient reported left hip 
pain to palpation and with flexion.  A left hip x-ray was 
performed which was negative for fracture or dislocation. Pain 
was managed with acetaminophen and tramadol prn. The patient was 
able to ambulate independently. Also on tertiary exam, patient 
was noted to have a grade 2 systolic murmur of which he was 
informed.  He was also informed of the incidental pulmonary 
nodules and he will follow up with his PCP.  During this 
hospitalization, the patient remained stable from a 
cardiopulmonary standpoint; vital signs were routinely 
monitored. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Cefpodoxime Proxetil 200 mg PO Q12H 
3. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Bacitracin Ointment 1 Appl TP BID  
3.  Lidocaine 5% Patch 1 PTCH TD QPM 
Apply for 12 hours, then remove and leave off for 12 hours 
RX *lidocaine 5 % Apply patch to area of left hip pain Every 
evening Disp #*7 Patch Refills:*1 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation   
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
6.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate 
Wean as tolerated.  Patient may request partial fill.  
RX *tramadol 50 mg 0.5 (One half) tablet by mouth every six (6) 
hours Disp #*5 Tablet Refills:*0 
7.  Atorvastatin 10 mg PO QPM  
8.  Cefpodoxime Proxetil 200 mg PO Q12H  
9.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Right parietal scalp laceration
-Mesenteric haziness concerning for possible mesenteric hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after being 
struck by a motor vehicle as you were walking.  You sustained a 
scalp laceration and there was an area of "haziness" seen on CT 
scan around the blood vessels of your gastrointestinal tract 
which may indicate bleeding or inflammation due to the trauma. 

Your scalp laceration was repaired with sutures by the Plastic 
Surgery service.  You should continue to gently clean the area 
daily with soap and water and apply bacitracin to the wound to 
prevent infection.  The Plastic Surgery clinic at ___ will 
contact you with a follow-up appointment (please see 
"recommended follow-up" section below).

Your abdominal exam was stable and your labs returned to normal. 
 You tolerated a regular diet without pain.  If you have any 
acute pain with eating, please return to the emergency room for 
evaluation. 

You are now ready to be discharged home to continue your 
recovery.  Please follow the discharge instructions below:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

 
Followup Instructions:
___